US04639457
In carrying out the reaction, an appropriate ethyl 2-methylnicotinate and benzaldehyde compound and acetic anhydride are refluxed together under nitrogen for about 24 hours. Thereafter, the excess anhydride is removed in vacuo and the residue poured into water and extracted with ether. The ether solution extracted with dilute acid, the acid solution then made basic with ammonia to obtain a lactone of 2-(2-hydroxy-2-phenylethyl)nicotinic acid. The lactone is reduced to 2-phenylethylnicotinic acid adding the lactone to a freshly prepared mixture of phosphorus and iodine and the resulting mixture heated at reflux temperature for 3 to 10 hours with stirring. The acid is recovered from the reaction mixture by filtering to remove the phosphorus and cooling to recover the hydroiodic acid salt which is collected, dissolved in water and the solution neutralized with ammonia to obtain the 2-phenethylnicotinic acid.

reactant | ethyl 2-methylnicotinate | CC1=C(C(=O)OCC)C=CC=N1 | C9H11NO2
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 2-(2-hydroxy-2-phenylethyl)nicotinic acid | OC(CC1=C(C(=O)O)C=CC=N1)C1=CC=CC=C1 | C14H13NO3
